US07402580B2
3-(3-aminophenyl)-3-methoxy-4,5,6,7-tetrahydro-2-benzofuran-1(3H)-one
To a solution of 3,4,5,6-tetrahydrophthalic acid anhydride (3.04 g) in tetrahydrofuran (40.0 mL) was added a solution of 3-(bis(trimethylsilyl)amino)phenylmagnesium chloride in tetrahydrofuran (1M, 20.0 mL) at −78° C. The mixture was stirred for 1.5 hours. A saturated aqueous ammonium chloride solution was added to the reaction mixture, which was stirred at room temperature for 30 minutes. Anhydrous magnesium sulfate was added to the reaction mixture, which was filtrated. The filtrate was concentrated to give an oily product. Thionyl chloride (5.20 mL) was added dropwise to methanol (20.0 mL) at −10° C. and then the solution was stirred at 0° C. for 15 minutes. To the solution was added the oily product obtained previously and the solution was stirred at room temperature for 18 hours. The reaction mixture was concentrated. The obtained residue was dissolved in methylene chloride (20 mL) and thereto was added triethylamine (2.79 mL) at 0° C. Water was added to the reaction solution, which was extracted with methylene chloride. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine sequentially, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=3:7) to give the title compound (2.56 g) having the following physical data.

reactant | 3,4,5,6-tetrahydrophthalic acid anhydride | 3.04 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | 3-(bis(trimethylsilyl)amino)phenylmagnesium chloride | C[Si](C)(C)N(C=1C=C(C=CC1)[Mg]Cl)[Si](C)(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Thionyl chloride | 5.20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 40.0 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1M, 20.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 20.0 mL | CO | CH4O
product | 3-(3-aminophenyl)-3-methoxy-4,5,6,7-tetrahydro-2-benzofuran-1(3H)-one | 2.56 g | NC=1C=C(C=CC1)C1(OC(C2=C1CCCC2)=O)OC | C15H17NO3
